US07776875B2
To a mixture of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(4-piperidinyloxy)-phenyl]-6-chloro-2′-(3-fluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (150 mg, 0.25 mmol) in methanol (10 mL) was added an aqueous solution (37 wt %, Aldrich) of formaldehyde (0.03 mL, 0.38 mmol) and NaCNBH3 (25 mg, 0.38 mmol). The reaction mixture was stirred at room temperature for 1 h, then concentrated. The residue was partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with brine, dried over MgSO4, and concentrated. The residue was purified by chromatography (MeOH:EtOAc:triethylamine=12:88:5) to give racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-methyl-4-piperidinyloxy)-phenyl]-6-chloro-2′-(3-fluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as a white solid (Yield 100 mg, 65%).

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(4-piperidinyloxy)-phenyl]-6-chloro-2′-(3-fluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.25 mmol, 150 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=CC(=CC=C1)F)C(NC1=CC(=CC=C12)Cl)=O)OC1CCNCC1 | C29H26BrClFN3O3
reactant | formaldehyde | 0.38 mmol, 0.03 mL | C=O | CH2O
reactant | NaCNBH3 | 0.38 mmol, 25 mg | [BH3-]C#N.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-methyl-4-piperidinyloxy)-phenyl]-6-chloro-2′-(3-fluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield 100 mg, 65% | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=CC(=CC=C1)F)C(NC1=CC(=CC=C12)Cl)=O)OC1CCN(CC1)C | C30H28BrClFN3O3
